US05102890
3-Diisopropylaminopropionic acid hydrochloride may be obtained by working according to the method described in Example 4 for the preparation of 1-methyl-3-piperidinecarboxylic acid, but starting with ethyl 3-diisopropylaminopropionate (5 g) and 6N aqueous hydrochloric acid solution (35 cc). After the product obtained has been recrystallized in acetone, 3-diisopropylaminopropionic acid hydrochloride (2.3 g), m.p. 170° C., is obtained.

reactant | 1-methyl-3-piperidinecarboxylic acid | CN1CC(CCC1)C(=O)O | C7H13NO2
reactant | ethyl 3-diisopropylaminopropionate | 5 g | C(C)(C)N(CCC(=O)OCC)C(C)C | C11H23NO2
reactant | hydrochloric acid | 6N, 35 cc | Cl | ClH
product | 3-diisopropylaminopropionic acid hydrochloride | 2.3 g | Cl.C(C)(C)N(CCC(=O)O)C(C)C | InChI=1S/C9H19NO2.ClH/c1-7(2)10(8(3)4)6-5-9(11)12;/h7-8H,5-6H2,1-4H3,(H,11,12);1H
